US05521147
In a flask were placed 250.0 g (1.80 moles) of 2,6-difluorobenzonitrile, 129.8 g of (1.80 moles) of methallyl alcohol, and 1500 mL of dimethyl sulfoxide. This mixture was stirred vigorously while 124.76 g (1.89 moles) of 85% powdered potassium hydroxide was added in portions. This addition required 2 hours during which the temperature was maintained below 45° C. The reaction mixture was stirred at ambient temperature for approximately 21 hours. At the conclusion of this period the mixture was poured into 4 L of an ice/water mixture. This mixture was divided into two equal portions, and each was extracted twice with 1 L of ethyl acetate. The extracts were combined and washed twice with a saturated aqueous solution of sodium chloride. The extracts were dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure leaving 302.7 g of 6-fluoro-2-(2-methyl-2-propen-1-yloxy)benzonitrile as a residue. The NMR spectrum was consistent with the proposed structure.

reactant | 2,6-difluorobenzonitrile | 1.80 moles, 250.0 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | methallyl alcohol | 1.80 moles, 129.8 g | C(C(C)=C)O | C4H8O
reactant | potassium hydroxide | [OH-].[K+]
solvent | dimethyl sulfoxide | 1500 mL | CS(=O)C | C2H6OS
product | 6-fluoro-2-(2-methyl-2-propen-1-yloxy)benzonitrile | 302.7 g | FC1=CC=CC(=C1C#N)OCC(=C)C | C11H10FNO
